US06875873B2
1,4-diamino-2-(thiazol-2-yl)benzene;
1,4-diamino-2-(4-methylthiazol-2-yl)benzene; 1,4-diamino-2-(5-methylthiazol-2-yl)benzene; 1,4-diamino-2-(4-chlorothiazol-2-yl)-benzene; 1,4-diamino-2-(5-chlorothiazol-2-yl)benzene; 1,4-diamino-2-(5-nitrothiazol-2-yl)benzene; 1,4-diamino-2-(4,5-dimethylthiazol-2-yl)benzene; 1,4-diamino-2-[4-methyl-5-(2-hydroxyethyl)thiazol-2-yl]benzene; 1,4-diamino-2-(4-phenylthiazol-2-yl)-benzene; 1,4-diamino-2-(5-nitrothiazol-2-yl)benzene; 1,4-diamino-2-(5-phenylthiazol-2-yl)benzene; 1-amino-4-methylamino-2-(thiazol-2-yl)benzene; 1-amino-4-(2-hydroxyethyl)amino-2-(thiazol-2-yl)benzene and 1-amino-4-bis(2-hydroxyethyl)amino-2-(thiazol-2-yl)benzene.

reactant | 1,4-diamino-2-(4-methylthiazol-2-yl)benzene | NC1=C(C=C(C=C1)N)C=1SC=C(N1)C | C10H11N3S
reactant | 1,4-diamino-2-(5-methylthiazol-2-yl)benzene | NC1=C(C=C(C=C1)N)C=1SC(=CN1)C | C10H11N3S
reactant | 1,4-diamino-2-(4-chlorothiazol-2-yl)-benzene | NC1=C(C=C(C=C1)N)C=1SC=C(N1)Cl | C9H8ClN3S
reactant | 1,4-diamino-2-(5-chlorothiazol-2-yl)benzene | NC1=C(C=C(C=C1)N)C=1SC(=CN1)Cl | C9H8ClN3S
reactant | 1,4-diamino-2-(5-nitrothiazol-2-yl)benzene | NC1=C(C=C(C=C1)N)C=1SC(=CN1)[N+](=O)[O-] | C9H8N4O2S
reactant | 1,4-diamino-2-(4,5-dimethylthiazol-2-yl)benzene | NC1=C(C=C(C=C1)N)C=1SC(=C(N1)C)C | C11H13N3S
reactant | 1,4-diamino-2-[4-methyl-5-(2-hydroxyethyl)thiazol-2-yl]benzene | NC1=C(C=C(C=C1)N)C=1SC(=C(N1)C)CCO | C12H15N3OS
reactant | 1,4-diamino-2-(4-phenylthiazol-2-yl)-benzene | NC1=C(C=C(C=C1)N)C=1SC=C(N1)C1=CC=CC=C1 | C15H13N3S
reactant | 1,4-diamino-2-(5-phenylthiazol-2-yl)benzene | NC1=C(C=C(C=C1)N)C=1SC(=CN1)C1=CC=CC=C1 | C15H13N3S
reactant | 1-amino-4-methylamino-2-(thiazol-2-yl)benzene | NC1=C(C=C(C=C1)NC)C=1SC=CN1 | C10H11N3S
reactant | 1-amino-4-(2-hydroxyethyl)amino-2-(thiazol-2-yl)benzene | NC1=C(C=C(C=C1)NCCO)C=1SC=CN1 | C11H13N3OS
reactant | 1-amino-4-bis(2-hydroxyethyl)amino-2-(thiazol-2-yl)benzene | NC1=C(C=C(C=C1)N(CCO)CCO)C=1SC=CN1 | C13H17N3O2S
product | 1,4-diamino-2-(thiazol-2-yl)benzene | NC1=C(C=C(C=C1)N)C=1SC=CN1 | C9H9N3S
